US05859015
Step A: 4-Chloro-3-(4-methoxybenzyl)pyridine.
4-Chloropyridine is treated sequentially with LDA (1.1 molar equivalents) and 4-methoxybenzaldehyde (1 molar equivalent). The resulting carbinol is isolated and deoxygenated with triethylsilane (10 molar equivalents) and 50% trifluoroacetic acid in methylene chloride to provide the title compound.

reactant | 4-Chloropyridine | ClC1=CC=NC=C1 | C5H4ClN
reactant | LDA | 1.1 molar | [Li+].CC(C)[N-]C(C)C
reactant | 4-methoxybenzaldehyde | 1 molar | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | carbinol | CO | CH4O
product | 4-Chloro-3-(4-methoxybenzyl)pyridine | ClC1=C(C=NC=C1)CC1=CC=C(C=C1)OC | C13H12ClNO
